US07265236B2
2,2-Bis(3-triethoxysilylpropoxymethyl)-1-trimethylsiloxybutane
A 1-liter, 3-neck flask equipped with magnetic stirrer, pot thermometer, addition funnel and condenser was charged with 143.2 g of 2,2-Bis(allyloxymethyl)-1-trimethylsiloxybutane. After heating to ˜80° C., 35 g of triethoxysilane was added followed by 1 ml of Karstedt catalyst containing 2% Pt. Once initiation was observed, the balance of triethoxysilane (133.4 g) was added at a rate to maintain temperature at 80-110° C. When the addition was complete, an additional 0.5 ml of Karstedt catalyst was added and temperature of 90° C. was maintained for 2 hours. A GC indicated the reaction was not complete. Two additional portions 43 g of triethoxysilane and 0.5 g of Karstedt were added, maintaining the temperature at 95-105° C. The product was purified by means of a wiped-film evaporator, removing volatiles on a first pass and then distilling crude product on a second pass. A short-path distillation produced purified product: b.p.: 200-205° C. at 0.8 mm; density: 0.980; 1HNMR(C6D6): 0.13(s, 9H), 0.77(m, 4H), 1.00(m, 3H), 1.14(t, 18H), 1.18(m, 2H), 1.85(m, 4H) 3.38(dd, 8H), 3.76(s, 2H), 3.81(q, 12H). The FTIR showed a strong absorption at 1105.1 cm−1, which is characteristic of Si—O.

reactant | 2,2-Bis(allyloxymethyl)-1-trimethylsiloxybutane | 143.2 g | C(C=C)OCC(CO[Si](C)(C)C)(CC)COCC=C | C15H30O3Si
reactant | triethoxysilane | 35 g | C(C)O[SiH](OCC)OCC | C6H16O3Si
reactant | triethoxysilane | 133.4 g | C(C)O[SiH](OCC)OCC | C6H16O3Si
reactant | triethoxysilane | 43 g | C(C)O[SiH](OCC)OCC | C6H16O3Si
product | 2,2-Bis(3-triethoxysilylpropoxymethyl)-1-trimethylsiloxybutane | C(C)O[Si](CCCOCC(CO[Si](C)(C)C)(CC)COCCC[Si](OCC)(OCC)OCC)(OCC)OCC | C27H62O9Si3
